US04971982
35.5 g of o-bromoanisole were added dropwise to 5.71 g of magnesium turnings covered with 50 ml of tetrahydrofuran while heating to maintain reflux. 15 minutes after completion of the addition 14.93 g of 2-cyano-3-methylpyridine in 150 ml of tetrahydrofuran were added dropwise without further heating. After 1 hour at room temperature dilute hydrochloric acid and ethyl acetate were added followed by dilute sodium hydroxide solution to pH 14. The mixture was extracted with ethyl acetate, the organic extract was dried over sodium sulphate and then evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:3) and then ethyl acetate/petroleum ether (1:2) for the elution. There were obtained 9.81 g of 2-methoxyphenyl 3-methyl-2-pyridyl ketone in the form of a solid of melting point 98-100° C.

reactant | o-bromoanisole | 35.5 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | magnesium | 5.71 g | [Mg] | Mg
reactant | 2-cyano-3-methylpyridine | 14.93 g | C(#N)C1=NC=CC=C1C | C7H6N2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methoxyphenyl 3-methyl-2-pyridyl ketone | 9.81 g | CC=1C(=NC=CC1)C(=O)C1=C(C=CC=C1)OC | C14H13NO2
